US07834007B2
To a suspension of tert-butyl (S)-5-((R)-3-(7-methyl-1H-indazol-5-yl)-2-(4-(2-oxo-1,2-dihydroquinolin-3-yl)piperidine-1-carboxamido)propanamido)-6-oxo-6-(4-(pyridin-4-yl)piperazin-1-yl)hexylcarbamate (230 mg, 0.27 mmol) in dichloromethane (10 mL) was added trifluoroacetic acid (10 mL) at 0° C. After 1 h at room temperature, the solvent was removed under high vacuum and then dissolved in methanol. The free base of title compound was liberated by passing the methanolic solution over Strata-X—C-33μ cation polymeric sorbent followed by elution with 3.0 M ammonia solution in methanol to give N-((R)-1-((S)-6-amino-1-oxo-1-(4-(pyridin-4-yl)piperazin-1-yl)hexan-2-ylamino)-3-(7-methyl-1H-indazol-5-yl)-1-oxopropan-2-yl)-4-(2-oxo-1,2-dihydroquinolin-3-yl)piperidine-1-carboxamide as a white solid in 72% yield. 1H-NMR (CD3OD) δ 8.08-8.07 (m, J=2, 2H), 7.95 (s, 1H), 7.61 (d, J=10 Hz, 1H), 7.51-7.44 (m, 3H), 7.29 (d, J=10 Hz, 1H), 7.23-7.19 (m, 1H), 7.11 (s, 1H), 6.79-6.78 (m, 2H), 4.80-4.77 (m, 2H), 4.60-4.55 (m, 1H), 4.11-4.04 (m, 2H), 3.82-3.80 (m, 2H), 3.66-2.78 (m, 11H), 2.51 (s, 3H), 1.87-1.11 (m, 11H; MS (ESI) 747 (M+H); Rf=1.64.

reactant | tert-butyl (S)-5-((R)-3-(7-methyl-1H-indazol-5-yl)-2-(4-(2-oxo-1,2-dihydroquinolin-3-yl)piperidine-1-carboxamido)propanamido)-6-oxo-6-(4-(pyridin-4-yl)piperazin-1-yl)hexylcarbamate | 0.27 mmol, 230 mg | CC=1C=C(C=C2C=NNC12)C[C@H](C(=O)N[C@@H](CCCCNC(OC(C)(C)C)=O)C(N1CCN(CC1)C1=CC=NC=C1)=O)NC(=O)N1CCC(CC1)C=1C(NC2=CC=CC=C2C1)=O | C46H58N10O6
reactant | trifluoroacetic acid | 10 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | N-((R)-1-((S)-6-amino-1-oxo-1-(4-(pyridin-4-yl)piperazin-1-yl)hexan-2-ylamino)-3-(7-methyl-1H-indazol-5-yl)-1-oxopropan-2-yl)-4-(2-oxo-1,2-dihydroquinolin-3-yl)piperidine-1-carboxamide | 72% yield | NCCCC[C@@H](C(N1CCN(CC1)C1=CC=NC=C1)=O)NC([C@@H](CC=1C=C2C=NNC2=C(C1)C)NC(=O)N1CCC(CC1)C=1C(NC2=CC=CC=C2C1)=O)=O | C41H50N10O4
